US04681875
Preparation of the Starting Compound 16α-(tert-Butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol
A solution of 11.52 g of 1,3,5(10)-estratriene-3,16α,17β-triol in 200 ml of dimethylformamide, cooled to -20° C., is combined, after adding 6.52 g of imidazole, dropwise with a solution of 13.24 g of tertbutyldimethylsilyl chloride in 100 ml of dimethylformamide. This reaction mixture is stirred for one hour with continued cooling and then poured into ice water. The resultant precipitate is filtered off, washed with water and dissolved in dichloromethane. The solution is dried over sodium sulfate and evaporated under vacuum. The residue is chromatographed on silica gel.

reactant | 1,3,5(10)-estratriene-3,16α,17β-triol | 11.52 g | C[C@@]12[C@H]([C@@H](C[C@H]1[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O)O | C18H24O3
reactant | imidazole | 6.52 g | N1C=NC=C1 | C3H4N2
reactant | tertbutyldimethylsilyl chloride | 13.24 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 16α-(tert-Butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O | C24H38O3Si
